US08378102B2
N-Hydroxyphthalimide (4.15 g, 25.4 mmol) and triphenylphosphine (6.66 g, 25.4 mmol) were added to a suspension of (7-bromo[1,3]thiazolo[4,5-c]quinolin-2-yl)methanol (5.00 g, 16.9 mmol) in THF (170 mL). Diethyl azodicarboxylate (4.43 g, 25.4 mmol) was added dropwise, and the resulting solution was stirred at room temperature for 1.5 hours. A precipitate formed and was isolated by filtration, washed with THF, and dried in a vacuum oven to provide 5.59 g of 2-[(7-bromo[1,3]thiazolo[4,5-c]quinolin-2-yl)methoxy]-1H-isoindole-1,3(2H)-dione.

reactant | N-Hydroxyphthalimide | 25.4 mmol, 4.15 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | triphenylphosphine | 25.4 mmol, 6.66 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (7-bromo[1,3]thiazolo[4,5-c]quinolin-2-yl)methanol | 16.9 mmol, 5.00 g | BrC=1C=CC=2C3=C(C=NC2C1)N=C(S3)CO | C11H7BrN2OS
reactant | Diethyl azodicarboxylate | 25.4 mmol, 4.43 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 170 mL | C1CCOC1 | C4H8O
product | 2-[(7-bromo[1,3]thiazolo[4,5-c]quinolin-2-yl)methoxy]-1H-isoindole-1,3(2H)-dione | 5.59 g | BrC=1C=CC=2C3=C(C=NC2C1)N=C(S3)CON3C(C1=CC=CC=C1C3=O)=O | C19H10BrN3O3S
